US07425642B2
1-Allyl-1H-pyrazole-5-carbaldehyde
Pyrazole-3-carbaldehyde (3.00 g, 31.2 mmol) was dissolved in DMF (20 ml), and thereto were added potassium carbonate (6.47 g, 46.8 mmol) and allyl bromide (3.50 g, 32.8 mmol) with stirring. The mixture was stirred at room temperature for 6 hours, and thereto was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated saline, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to give the title compound (429 mg, 10%).

reactant | Pyrazole-3-carbaldehyde | 31.2 mmol, 3.00 g | N1N=C(C=C1)C=O | C4H4N2O
reactant | potassium carbonate | 46.8 mmol, 6.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 32.8 mmol, 3.50 g | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Allyl-1H-pyrazole-5-carbaldehyde | 429 mg, 10% | C(C=C)N1N=CC=C1C=O | C7H8N2O
